US07157447B2
(2,5-Dibromo-4-fluorophenyl)methanamine.
A solution of 2,5-dibromo-4-fluorobenzyl bromide (0.350 g, 1 mmol) in 7M NH3/MeOH was heated in a sealed tube at 100° C. for 2 h. The reaction mixture was cooled and concentrated to give a white solid which was dissolved in CH2Cl2 and treated with Et3N (1 mL) then concentrated. The resulting residue was triturated with ethyl acetate (25 mL), filtered and concentrated to give the title compound (0.291 g) as a pale yellow oil. HRMS (M+H) calcd for C7H7Br2FN: 283.94. found: 283.93.

reactant | 2,5-dibromo-4-fluorobenzyl bromide | 1 mmol, 0.350 g | BrC1=C(CBr)C=C(C(=C1)F)Br | C7H4Br3F
reactant | Et3N | 1 mL | CCN(CC)CC | C6H15N
solvent | NH3 MeOH | 7M | N.CO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (2,5-Dibromo-4-fluorophenyl)methanamine | 0.291 g | BrC1=C(C=C(C(=C1)F)Br)CN | C7H6Br2FN
